* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -1.8946633183777333e-05
Fd1_1 0 s1 V1 -0.0009473316591888667
Gr1_re_1_1 0 s1 x1_re_a1 0 1301118653.173639
Gr1_im_1_1 0 s1 x1_im_a1 0 258217471.50017914
Gr2_re_1_1 0 s1 x2_re_a1 0 -2466727793.4629607
Gr2_im_1_1 0 s1 x2_im_a1 0 -387683936.8939524
Gr3_re_1_1 0 s1 x3_re_a1 0 -960814147.5061362
Gr3_im_1_1 0 s1 x3_im_a1 0 4493663668.917855
Gr4_re_1_1 0 s1 x4_re_a1 0 -14746583899.27339
Gr4_im_1_1 0 s1 x4_im_a1 0 -1429317720.4397552
Gr5_re_1_1 0 s1 x5_re_a1 0 3672824982.502726
Gr5_im_1_1 0 s1 x5_im_a1 0 6889135712.698867
Gr6_re_1_1 0 s1 x6_re_a1 0 9389426441.296488
Gr6_im_1_1 0 s1 x6_im_a1 0 3451179083.0787206
Gr7_re_1_1 0 s1 x7_re_a1 0 -21861982642.403934
Gr7_im_1_1 0 s1 x7_im_a1 0 -4885119744.055946
Gr8_re_1_1 0 s1 x8_re_a1 0 10433112278.758926
Gr8_im_1_1 0 s1 x8_im_a1 0 1801092852.723375
Gr9_re_1_1 0 s1 x9_re_a1 0 26299863987.84269
Gr9_im_1_1 0 s1 x9_im_a1 0 -7892326493.489556
Gr10_re_1_1 0 s1 x10_re_a1 0 -16873082366.694668
Gr10_im_1_1 0 s1 x10_im_a1 0 7303484759.277063
Gr11_re_1_1 0 s1 x11_re_a1 0 -1409289850.4928496
Gr11_im_1_1 0 s1 x11_im_a1 0 -16845231050.33448
Gr12_re_1_1 0 s1 x12_re_a1 0 -3603687379.125436
Gr12_im_1_1 0 s1 x12_im_a1 0 -25891782077.334976
Gd1_2 0 s1 p2 0 0.004078296169829766
Fd1_2 0 s1 V2 0.2039148084914883
Gr1_re_1_2 0 s1 x1_re_a2 0 269492302.7843292
Gr1_im_1_2 0 s1 x1_im_a2 0 417143572.0762865
Gr2_re_1_2 0 s1 x2_re_a2 0 275233611.70931804
Gr2_im_1_2 0 s1 x2_im_a2 0 749481099.9790653
Gr3_re_1_2 0 s1 x3_re_a2 0 294737424.3443237
Gr3_im_1_2 0 s1 x3_im_a2 0 141200000.71951282
Gr4_re_1_2 0 s1 x4_re_a2 0 -76221880915.60345
Gr4_im_1_2 0 s1 x4_im_a2 0 -78815526294.54497
Gr5_re_1_2 0 s1 x5_re_a2 0 412529607.21287376
Gr5_im_1_2 0 s1 x5_im_a2 0 465218570.2729336
Gr6_re_1_2 0 s1 x6_re_a2 0 492542359.0764194
Gr6_im_1_2 0 s1 x6_im_a2 0 630363454.4544137
Gr7_re_1_2 0 s1 x7_re_a2 0 46521987748.41757
Gr7_im_1_2 0 s1 x7_im_a2 0 -45066900271.15998
Gr8_re_1_2 0 s1 x8_re_a2 0 13098413.851649871
Gr8_im_1_2 0 s1 x8_im_a2 0 905716373.4483218
Gr9_re_1_2 0 s1 x9_re_a2 0 -930243613.9452415
Gr9_im_1_2 0 s1 x9_im_a2 0 3204237086.8712373
Gr10_re_1_2 0 s1 x10_re_a2 0 10237052516.880245
Gr10_im_1_2 0 s1 x10_im_a2 0 5941475523.4144125
Gr11_re_1_2 0 s1 x11_re_a2 0 -3409441853.31341
Gr11_im_1_2 0 s1 x11_im_a2 0 3435115160.052654
Gr12_re_1_2 0 s1 x12_re_a2 0 2096268578.8613842
Gr12_im_1_2 0 s1 x12_im_a2 0 3385215903.50565
*
* State networks driven by port 1
Cx1_re_a1 x1_re_a1 0 1.0
Gx1_re_a1 0 x1_re_a1 p1 0 0.1414213562373095
Fx1_re_a1 0 x1_re_a1 V1 7.0710678118654755
Rp1_re_re_a1 0 x1_re_a1 1.864932613083269e-10
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 306651519471.87494
Cx1_im_a1 x1_im_a1 0 1.0
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -306651519471.87494
Rp1_im_im_a1 0 x1_im_a1 1.864932613083269e-10
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 1.3635209280230237e-10
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 296838963157.3952
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -296838963157.3952
Rp2_im_im_a1 0 x2_im_a1 1.3635209280230237e-10
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.3833029633576834e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 280266669338.86505
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -280266669338.86505
Rp3_im_im_a1 0 x3_im_a1 1.3833029633576834e-10
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.5468954088052032e-11
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 45019624752.663994
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -45019624752.663994
Rp4_im_im_a1 0 x4_im_a1 1.5468954088052032e-11
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 1.0996637073478488e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 261230831562.28735
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -261230831562.28735
Rp5_im_im_a1 0 x5_im_a1 1.0996637073478488e-10
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 1.0302548769640905e-10
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 242848381473.95685
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -242848381473.95685
Rp6_im_im_a1 0 x6_im_a1 1.0302548769640905e-10
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 2.1556697386765185e-11
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 127437833480.45972
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -127437833480.45972
Rp7_im_im_a1 0 x7_im_a1 2.1556697386765185e-11
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 1.0796614103618841e-10
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 222107544673.39603
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -222107544673.39603
Rp8_im_im_a1 0 x8_im_a1 1.0796614103618841e-10
Cx9_re_a1 x9_re_a1 0 1.0
Gx9_re_a1 0 x9_re_a1 p1 0 0.1414213562373095
Fx9_re_a1 0 x9_re_a1 V1 7.0710678118654755
Rp9_re_re_a1 0 x9_re_a1 7.745103672357389e-11
Gp9_re_im_a1 0 x9_re_a1 x9_im_a1 0 202213625107.1335
Cx9_im_a1 x9_im_a1 0 1.0
Gp9_im_re_a1 0 x9_im_a1 x9_re_a1 0 -202213625107.1335
Rp9_im_im_a1 0 x9_im_a1 7.745103672357389e-11
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 8.365406994324666e-11
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 162657945721.78055
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -162657945721.78055
Rp10_im_im_a1 0 x10_im_a1 8.365406994324666e-11
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 1.0989377903142988e-10
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 169844658743.03677
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -169844658743.03677
Rp11_im_im_a1 0 x11_im_a1 1.0989377903142988e-10
Cx12_re_a1 x12_re_a1 0 1.0
Gx12_re_a1 0 x12_re_a1 p1 0 0.1414213562373095
Fx12_re_a1 0 x12_re_a1 V1 7.0710678118654755
Rp12_re_re_a1 0 x12_re_a1 8.297616041287464e-11
Gp12_re_im_a1 0 x12_re_a1 x12_im_a1 0 189276463137.78796
Cx12_im_a1 x12_im_a1 0 1.0
Gp12_im_re_a1 0 x12_im_a1 x12_re_a1 0 -189276463137.78796
Rp12_im_im_a1 0 x12_im_a1 8.297616041287464e-11
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.0040707508556518685
Fd2_1 0 s2 V1 0.20353754278259342
Gr1_re_2_1 0 s2 x1_re_a1 0 268740980.91326994
Gr1_im_2_1 0 s2 x1_im_a1 0 417609287.5521219
Gr2_re_2_1 0 s2 x2_re_a1 0 272695264.4980277
Gr2_im_2_1 0 s2 x2_im_a1 0 750911567.145709
Gr3_re_2_1 0 s2 x3_re_a1 0 293981302.7523626
Gr3_im_2_1 0 s2 x3_im_a1 0 141269141.74921197
Gr4_re_2_1 0 s2 x4_re_a1 0 -76222085921.04066
Gr4_im_2_1 0 s2 x4_im_a1 0 -78890058655.3209
Gr5_re_2_1 0 s2 x5_re_a1 0 411131198.46011716
Gr5_im_2_1 0 s2 x5_im_a1 0 465173056.1617879
Gr6_re_2_1 0 s2 x6_re_a1 0 490542235.2829909
Gr6_im_2_1 0 s2 x6_im_a1 0 630324021.3547965
Gr7_re_2_1 0 s2 x7_re_a1 0 46612379918.67083
Gr7_im_2_1 0 s2 x7_im_a1 0 -45009240560.62042
Gr8_re_2_1 0 s2 x8_re_a1 0 10853035.887530189
Gr8_im_2_1 0 s2 x8_im_a1 0 904229461.4946653
Gr9_re_2_1 0 s2 x9_re_a1 0 -938227968.3038243
Gr9_im_2_1 0 s2 x9_im_a1 0 3197047104.558026
Gr10_re_2_1 0 s2 x10_re_a1 0 10223521757.158411
Gr10_im_2_1 0 s2 x10_im_a1 0 5979036389.616946
Gr11_re_2_1 0 s2 x11_re_a1 0 -3422823671.2898498
Gr11_im_2_1 0 s2 x11_im_a1 0 3422400295.8967476
Gr12_re_2_1 0 s2 x12_re_a1 0 2083321539.1333299
Gr12_im_2_1 0 s2 x12_im_a1 0 3388610908.523697
Gd2_2 0 s2 p2 0 0.005468246994676354
Fd2_2 0 s2 V2 0.27341234973381773
Gr1_re_2_2 0 s2 x1_re_a2 0 425809250.40805435
Gr1_im_2_2 0 s2 x1_im_a2 0 1750989561.951075
Gr2_re_2_2 0 s2 x2_re_a2 0 2297625693.8590097
Gr2_im_2_2 0 s2 x2_im_a2 0 1568094157.4869444
Gr3_re_2_2 0 s2 x3_re_a2 0 3915085195.012825
Gr3_im_2_2 0 s2 x3_im_a2 0 1874578544.716505
Gr4_re_2_2 0 s2 x4_re_a2 0 -17205646164.934116
Gr4_im_2_2 0 s2 x4_im_a2 0 885073948.6198568
Gr5_re_2_2 0 s2 x5_re_a2 0 8260616237.254739
Gr5_im_2_2 0 s2 x5_im_a2 0 625053552.4816674
Gr6_re_2_2 0 s2 x6_re_a2 0 9233830591.393383
Gr6_im_2_2 0 s2 x6_im_a2 0 -4496551271.135536
Gr7_re_2_2 0 s2 x7_re_a2 0 -26573877727.12874
Gr7_im_2_2 0 s2 x7_im_a2 0 3815241736.433526
Gr8_re_2_2 0 s2 x8_re_a2 0 9362182149.925283
Gr8_im_2_2 0 s2 x8_im_a2 0 -5428283135.380206
Gr9_re_2_2 0 s2 x9_re_a2 0 19026555121.031174
Gr9_im_2_2 0 s2 x9_im_a2 0 -22630686278.8851
Gr10_re_2_2 0 s2 x10_re_a2 0 -12959216901.456501
Gr10_im_2_2 0 s2 x10_im_a2 0 14748504692.95318
Gr11_re_2_2 0 s2 x11_re_a2 0 -9703059644.155117
Gr11_im_2_2 0 s2 x11_im_a2 0 -15271546598.049347
Gr12_re_2_2 0 s2 x12_re_a2 0 -17261943614.87273
Gr12_im_2_2 0 s2 x12_im_a2 0 -21793339173.16048
*
* State networks driven by port 2
Cx1_re_a2 x1_re_a2 0 1.0
Gx1_re_a2 0 x1_re_a2 p2 0 0.1414213562373095
Fx1_re_a2 0 x1_re_a2 V2 7.0710678118654755
Rp1_re_re_a2 0 x1_re_a2 1.864932613083269e-10
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 306651519471.87494
Cx1_im_a2 x1_im_a2 0 1.0
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -306651519471.87494
Rp1_im_im_a2 0 x1_im_a2 1.864932613083269e-10
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 1.3635209280230237e-10
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 296838963157.3952
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -296838963157.3952
Rp2_im_im_a2 0 x2_im_a2 1.3635209280230237e-10
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.3833029633576834e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 280266669338.86505
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -280266669338.86505
Rp3_im_im_a2 0 x3_im_a2 1.3833029633576834e-10
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.5468954088052032e-11
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 45019624752.663994
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -45019624752.663994
Rp4_im_im_a2 0 x4_im_a2 1.5468954088052032e-11
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 1.0996637073478488e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 261230831562.28735
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -261230831562.28735
Rp5_im_im_a2 0 x5_im_a2 1.0996637073478488e-10
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 1.0302548769640905e-10
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 242848381473.95685
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -242848381473.95685
Rp6_im_im_a2 0 x6_im_a2 1.0302548769640905e-10
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 2.1556697386765185e-11
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 127437833480.45972
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -127437833480.45972
Rp7_im_im_a2 0 x7_im_a2 2.1556697386765185e-11
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 1.0796614103618841e-10
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 222107544673.39603
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -222107544673.39603
Rp8_im_im_a2 0 x8_im_a2 1.0796614103618841e-10
Cx9_re_a2 x9_re_a2 0 1.0
Gx9_re_a2 0 x9_re_a2 p2 0 0.1414213562373095
Fx9_re_a2 0 x9_re_a2 V2 7.0710678118654755
Rp9_re_re_a2 0 x9_re_a2 7.745103672357389e-11
Gp9_re_im_a2 0 x9_re_a2 x9_im_a2 0 202213625107.1335
Cx9_im_a2 x9_im_a2 0 1.0
Gp9_im_re_a2 0 x9_im_a2 x9_re_a2 0 -202213625107.1335
Rp9_im_im_a2 0 x9_im_a2 7.745103672357389e-11
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 8.365406994324666e-11
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 162657945721.78055
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -162657945721.78055
Rp10_im_im_a2 0 x10_im_a2 8.365406994324666e-11
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 1.0989377903142988e-10
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 169844658743.03677
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -169844658743.03677
Rp11_im_im_a2 0 x11_im_a2 1.0989377903142988e-10
Cx12_re_a2 x12_re_a2 0 1.0
Gx12_re_a2 0 x12_re_a2 p2 0 0.1414213562373095
Fx12_re_a2 0 x12_re_a2 V2 7.0710678118654755
Rp12_re_re_a2 0 x12_re_a2 8.297616041287464e-11
Gp12_re_im_a2 0 x12_re_a2 x12_im_a2 0 189276463137.78796
Cx12_im_a2 x12_im_a2 0 1.0
Gp12_im_re_a2 0 x12_im_a2 x12_re_a2 0 -189276463137.78796
Rp12_im_im_a2 0 x12_im_a2 8.297616041287464e-11
.ENDS s_equivalent
